US07659264B2
Step B. 1-tert-butyl 4-methyl 4-(2-oxoethyl)piperidine-1,4-dicarboxylate
Ozone was bubbled through a −78° C. solution of 1-tert-butyl 4-methyl 4-allylpiperidine-1,4-dicarboxylate (4.0 g, 14.1 mmol) in 3:1 dichloromethane:methanol over 30 min to produce a blue solution. Nitrogen was bubbled through the reaction mixture for 30 min, then dimethylsulfide (5.2 mL, 70.6 mmol) was added and the reaction warmed to room temperature. After 3 h, the reaction mixture was concentrated under reduced pressure. The crude product was purified by silica gel chromatography, eluting with a gradient of 5 to 50% ethyl acetate:hexane to give the title compound (1.72 g). MS: m/z 230.1 (M−tBu).

reactant | Ozone | O=[O+][O-] | O3
reactant | 1-tert-butyl 4-methyl 4-allylpiperidine-1,4-dicarboxylate | 14.1 mmol, 4.0 g | C(C=C)C1(CCN(CC1)C(=O)OC(C)(C)C)C(=O)OC | C15H25NO4
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | dimethylsulfide | 70.6 mmol, 5.2 mL | CSC | C2H6S
solvent | methanol | CO | CH4O
product | 1-tert-butyl 4-methyl 4-(2-oxoethyl)piperidine-1,4-dicarboxylate | 1.72 g | O=CCC1(CCN(CC1)C(=O)OC(C)(C)C)C(=O)OC | C14H23NO5
